US07576215B2
3,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE
3-Phenyl-8-(trifluoromethyl)quinolin-4-ol: A solution of 3-bromo-8-(trifluoromethyl)quinolin-4-ol (3.2 g, 10.95 mmol) and phenyl boronic acid (2.67 g, 21.91 mmol) in 2:1 toluene:methanol (120 mL) and sat aq NaHCO3 (40 mL) is treated with Pd(PPh3)4 (760 mg) and heated at reflux overnight. The reaction is poured into water and extracted with ethyl acetate. The combined extracts are washed with 2N aq NaOH, water, brine, and dried with magnesium sulfate. The extracts are concentrated and the residue is chromatographed with 1:4 ethyl acetate:hexanes to afford the title compound as a yellow solid (6.4 g, 59%). mp 272-275° C.; MS (ESI) m/z 290; MS (ESI) m/z 288; HRMS: calcd for C16H10NF3O+H, 290.07927; found (ESI_FT, [M+H]1+), 290.07816.

reactant | 3-Phenyl-8-(trifluoromethyl)quinolin-4-ol | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C16H10F3NO
reactant | 3-bromo-8-(trifluoromethyl)quinolin-4-ol | 10.95 mmol, 3.2 g | BrC=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C10H5BrF3NO
reactant | phenyl boronic acid | 21.91 mmol, 2.67 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd(PPh3)4 | 760 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | methanol | 120 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE | 6.4 g, 59% | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C22H14F3N
